US09422280B2
S.1 4-[(6-chloro-3-pyridyl)methyl]-2-methylsulfanyl-imidazo[4,5-b]pyridine
A solution of 2-methylsulfanyl-4H-imidazo[4,5-b]pyridine (900 mg, 5.45 mmol), 2-chloro-5-(chloromethyl)pyridine (1.32 g, 8.17 mmol) and triethylamine (1.1 mL, 8.17 mmol) in benzene (18 mL) was stirred at 100° C. for 12 h (microwave). After cooling to room temperature the benzene was decanted off and the resulting solid was triturated with boiling benzene (3×15 mL). The benzene phases were combined and the solvent was removed under reduced pressure. The resulting solid was triturated with CH2Cl2, filtered and dried under reduced pressure to yield 760 mg (2.62 mmol, 48%) of compound E1.4.

reactant | 2-methylsulfanyl-4H-imidazo[4,5-b]pyridine | 5.45 mmol, 900 mg | CSC1=NC=2C(NC=CC2)=N1 | C7H7N3S
reactant | 2-chloro-5-(chloromethyl)pyridine | 8.17 mmol, 1.32 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | triethylamine | 8.17 mmol, 1.1 mL | C(C)N(CC)CC | C6H15N
solvent | benzene | 18 mL | C1=CC=CC=C1 | C6H6
product | 4-[(6-chloro-3-pyridyl)methyl]-2-methylsulfanyl-imidazo[4,5-b]pyridine | 2.62 mmol, 760 mg, 48% | ClC1=CC=C(C=N1)CN1C=2C(=CC=C1)N=C(N2)SC | C13H11ClN4S
